US04783462
4-Chloro-5-[3-(2-n-butyl-4-carbamoylphenoxy)propylamino]-2-i-propyl-3-(2H)pyridazinone (Compound No. 114)
A mixture comprising 168 mg of 4-chloro-5-[3-(2-n-butyl-4-carboxyphenoxy)propylamino]-2-i-propyl-3(2H) pyridazinone (Compound No. 112), 119 mg of thionyl chloride and 10 ml of dried tetrahydrofuran, was refluxed under stirring for 1 hour. The reaction mixture was subjected to distillation under reduced pressure. To the residue, 20 ml of dried benzene was added. The mixture was again subjected to distillation under reduced pressure to remove excess thionyl chloride by azeotropic distillation. The residual oily substance thereby obtained, was dissolved in 10 ml of dried tetrahydrofuran, and ammonia gas was introduced thereinto for 5 minutes under cooling with ice. Then, the reaction solution was further stirred for 15 minutes. The reaction mixture was subjected to distillation under reduced pressure, and water was poured into the residue thereby obtained. The mixture was extracted with chloroform. The extract was washed sequentially with a 5% sodium hydroxide aqueous solution and a saturated sodium chloride aqueous solution, and dried over sodium sulfate. Then, the solvent was distilled off, and a pale yellow oily substance thereby obtained was crystallized from methanol-ethyl ether to obtain 143 mg of the above identified compound as colorless crystals having a melting point of 172° to 174° C.

reactant | 4-chloro-5-[3-(2-n-butyl-4-carboxyphenoxy)propylamino]-2-i-propyl-3(2H) pyridazinone | 168 mg | ClC=1C(N(N=CC1NCCCOC1=C(C=C(C=C1)C(=O)O)CCCC)C(C)C)=O | C21H28ClN3O4
reactant | thionyl chloride | 119 mg | S(=O)(Cl)Cl | Cl2OS
reactant | ammonia | N | H3N
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 4-Chloro-5-[3-(2-n-butyl-4-carbamoylphenoxy)propylamino]-2-i-propyl-3-(2H)pyridazinone | ClC=1C(N(N=CC1NCCCOC1=C(C=C(C=C1)C(N)=O)CCCC)C(C)C)=O | C21H29ClN4O3
